US04447435
4-Chloro-3-chloromethylquinoline (14.2 g.) was added to a stirred suspension of sodium methanesulphinate (7.3 g.) in dimethylformamide (150 ml.) at room temperature. The mixture was stirred for 14 hours at room temperature, then for 0.5 hour at 95°-100°. The solvent was evaporated to half volume and water added to the residue. The resulting solid product was collected and dissolved in dichloromethane. The solution was dried, filtered from charcoal, and evaporated. The resulting solid was triturated with petroleum ether to give the novel compound 4-chloro-3-methylsulphonylmethylquinoline, m.p. 202°-204°.

reactant | 4-Chloro-3-chloromethylquinoline | 14.2 g | ClC1=C(C=NC2=CC=CC=C12)CCl | C10H7Cl2N
reactant | sodium methanesulphinate | 7.3 g | CS(=O)[O-].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-chloro-3-methylsulphonylmethylquinoline | ClC1=C(C=NC2=CC=CC=C12)CS(=O)(=O)C | C11H10ClNO2S
